US07163936B2
To a solution of 1-allyl 4-tert-butyl (2R)-2-[(methoxymethoxy)methyl]-5-oxo-1,4-piperidinedicarboxylate (1.21 g, 3.4 mmol) in methanol (40 ml) was added acetic acid (0.235 ml, 4.1 mmol) and sodium cyanoborohydride (0.255 g, 4.1 mmol) and the mixture were stirred at room temperature for 20 minutes. The solvent was removed in vacuo and it was confirmed whether a starting material run out by TLC. When the starting material remained, methanol (40 ml) was added thereto to dissolve the reaction mixture and then the solvent was again removed. Until the starting material run out, the procedure was repeated. After the starting material run out, the residue was purified by silica gel (30 g) chromatography to give 1-allyl 4-tert-butyl (2R)-5-hydroxy-2-[(methoxymethoxy)methyl]-1,4-piperidinedicarboxylate (1.22 g, quantitatively).

reactant | 1-allyl 4-tert-butyl (2R)-2-[(methoxymethoxy)methyl]-5-oxo-1,4-piperidinedicarboxylate | 3.4 mmol, 1.21 g | COCOC[C@@H]1N(CC(C(C1)C(=O)OC(C)(C)C)=O)C(=O)OCC=C | C17H27NO7
reactant | acetic acid | 4.1 mmol, 0.235 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 4.1 mmol, 0.255 g | C(#N)[BH3-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 1-allyl 4-tert-butyl (2R)-5-hydroxy-2-[(methoxymethoxy)methyl]-1,4-piperidinedicarboxylate | OC1C(C[C@@H](N(C1)C(=O)OCC=C)COCOC)C(=O)OC(C)(C)C | C17H29NO7
